US05462694
An objective product was prepared in the same manner as in Example 2 except that 2-(2-decylindan-5-yl)pyrimidine-5-ol was changed to 4-(6-octylbenzothiazole-2-yl)phenol and 3-phenylpropyl p-toluenesulfonate was changed to 5-cyclohexylpentyl p-toluenesulfonate (Yield: 62.4%).

reactant | 2-(2-decylindan-5-yl)pyrimidine-5-ol | C(CCCCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)O | C23H32N2O
reactant | 4-(6-octylbenzothiazole-2-yl)phenol | C(CCCCCCC)C1=CC2=C(N=C(S2)C2=CC=C(C=C2)O)C=C1 | C21H25NOS
reactant | 3-phenylpropyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1=CC=CC=C1)C | C16H18O3S
product | 5-cyclohexylpentyl p-toluenesulfonate | Yield: 62.4% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC1CCCCC1)C | C18H28O3S
